US07141586B2
5-Fluoro-N-{cis-4-[(3-hydroxy-2,2-dimethylpropanoyl)amino]cyclohexyl}-2-[3-(methylsulfanyl)phenoxy]nicotinamide
A solution of N-(trans-4-Amino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide hydrochloride (250 mg, 0.666 mmol) in dimethylformamide (5 ml) and triethylamine (278 μl, 2.0 mmol) was treated with 2,2-dimethyl-3-hydroxy propanoic acid (86 mg, 0.73 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (99 mg, 0.73 mmol) and 1-hydroxybenzotriazole (114 mg, 0.73 mmol). The reaction mixture was stirred under nitrogen at room temperature for 36 h and the solvent was removed under reduced pressure. The residue was partitioned between sat. sodium hydrogen carbonate solution (10 ml) and ethyl acetate (15 ml) and the aqueous phase was extracted with ethyl acetate (3×15 ml). The combined organic extracts were washed with water (2×10 ml), brine (10 ml), dried over MgSO4 and the solvent was removed under reduced pressure. Trituration of the residue with diethylether (5 ml) gave the title compound (270 mg) as a white solid.

reactant | N-(trans-4-Amino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide hydrochloride | 0.666 mmol, 250 mg | Cl.N[C@@H]1CC[C@H](CC1)NC(C1=C(N=CC(=C1)F)OC1=CC(=CC=C1)SC)=O
reactant | triethylamine | 2.0 mmol, 278 μl | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethyl-3-hydroxy propanoic acid | 0.73 mmol, 86 mg | CC(C(=O)O)(CO)C | C5H10O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.73 mmol, 99 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.73 mmol, 114 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-Fluoro-N-{cis-4-[(3-hydroxy-2,2-dimethylpropanoyl)amino]cyclohexyl}-2-[3-(methylsulfanyl)phenoxy]nicotinamide | 270 mg | FC=1C=NC(=C(C(=O)N[C@@H]2CC[C@@H](CC2)NC(C(CO)(C)C)=O)C1)OC1=CC(=CC=C1)SC | C24H30FN3O4S
